US04513006
To a cold solution (-5° C.) of tetrahydropyran-2-methanol (2.33 g, 0.02 mol) in DMF (40 ml) was added 50% oily sodium hydride (1.17 g, 0.024 mol as NaH). After stirring for 45 min, sulfamoyl chloride (3.42 g, 0.03 mol) was added and the stirring continued for an additional 45 min, at -5° C. The reaction mixture was poured into cold water and extracted with chloroform. The organic layer was dried (Na2SO4) and the solvents were removed under vacuum to give a syrup which was dry column chromatographed (eluted with ethyl acetate:hexane, 4:1 v/v) to give pure (tetrahydro-2H-pyran-2-yl) methanesulfamate as a pale yellow syrup, IR:(CHCl3) 1180 cm-1 and 1370 cm-1 (OSO2NH2).

reactant | tetrahydropyran-2-methanol | 0.02 mol, 2.33 g | O1C(CCCC1)CO | C6H12O2
reactant | sodium hydride | 0.024 mol, 1.17 g | [H-].[Na+]
reactant | sulfamoyl chloride | 0.03 mol, 3.42 g | S(N)(=O)(=O)Cl | ClH2NO2S
reactant | water | O | H2O
reactant | DMF | 40 ml | CN(C)C=O | C3H7NO
product | (tetrahydro-2H-pyran-2-yl) methanesulfamate | CNS(=O)(=O)OC1OCCCC1 | C6H13NO4S
